US09359286B2
To a heterogeneous mixture of (3S)-1-amino-3-(4-bromophenyl)cyclopentanecarboxylic acid (I-1C, 14 g, 49.3 mmol) in MeOH (250 mL) was added thionyl chloride (36.0 mL, 493 mmol) dropwise over a period of 20 minutes at room temperature via an additional funnel (exothermic). The reaction mixture was placed in an oil bath and heated to 70° C. for 4 hours. The solvent was removed under vacuum, with the residue being dissolved in ethyl acetate (200 mL) and washed twice with 1N NaOH. The organic layer was then dried over Na2SO4 and concentrated to give 10.8 g of (3S)-methyl 1-amino-3-(4-bromophenyl)cyclopentanecarboxylate. HPLC retention time=0.68 min (Condition G); LC/MS M+1=298/300.

reactant | (3S)-1-amino-3-(4-bromophenyl)cyclopentanecarboxylic acid | 49.3 mmol, 14 g | NC1(C[C@H](CC1)C1=CC=C(C=C1)Br)C(=O)O | C12H14BrNO2
reactant | thionyl chloride | 493 mmol, 36.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 250 mL | CO | CH4O
product | (3S)-methyl 1-amino-3-(4-bromophenyl)cyclopentanecarboxylate | 10.8 g | NC1(C[C@H](CC1)C1=CC=C(C=C1)Br)C(=O)OC | C13H16BrNO2
